US08314098B2
(Step 2): 5-Chloro-2-(2-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (2 mL), 5,7-dichloro-2-(2-methyl-phenyl)-pyrazolo[1,5-a]pyrimidine (74.4 mg, 0.267 mM), then morpholine (46.6 μL, 0.534 mM) was added to the solution and the mixture was stirred at room temperature for one hour. The solvent was distilled off from this reaction mixture, the resulting residue was diluted with water and then extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to give the title compound (75.3 mg, yield: 86%).

reactant | 5,7-dichloro-2-(2-methyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.267 mM, 74.4 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=C(C=CC=C2)C | C13H9Cl2N3
reactant | morpholine | 0.534 mM, 46.6 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-(2-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 75.3 mg, yield: 86% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=C(C=CC=C2)C | C17H17ClN4O
